### ISSUE TITLE
Incorrect arg count in a functional induction match arm, when WF def uses local variables.

### ISSUE THREAD

**Issue by michelsol** [leanprover/lean4#5058]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

I believe that Lean incorrectly counts arguments in a match arm, on a functional induction, on a WF def that has local variables.
Below is a same theorem written in 3 styles.  Third style fails which seems wrong.

```lean

def z (n : Nat) : Nat :=
  if n = 0 then 0
  else
    let n' := n - 1
    z n'

theorem thz1 (n : Nat) : z n = 0 := by
  induction n using z.induct
  next => simp [z]
  next n hn n' hn' => simp [z, hn, hn']

theorem thz2 (n : Nat) : z n = 0 := by
  induction n using z.induct
  case case1 => simp [z]
  case case2 n hn n' hn' => simp [z, hn, hn']

theorem thz3 (n : Nat) : z n = 0 := by
  induction n using z.induct with
  | case1 => simp [z]
  | case2 n hn n' hn' => simp [z, hn, hn']  -- this fails but I think it should not. 
--- the error here is "too many variable names provided at alternative 'case2', #4 provided, but #3 expected"

```

### Versions

leanprover/lean4:v4.11.0-rc2

### Impact

I want to write theorems about `Nat.bitwise` which is defined by wf recursion and uses local variables.
Being forced to use the next => style or the case => style seems awkward.

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
Hmpf, I thought this was fixed with #3505. Thanks for the report!

**Comment by nomeata** [comment]
Ah, but there I only tested the `case` syntax, not the `with` syntax. So there is hope that the same fix has to applied somewhere else as well.
